US07915263B2
(3) Synthesis of tert-butyl 4-((tert-butyl(diphenyl)silyl)oxy)cyclohexanecarboxylate
To a solution of 62.8 g of 4-((tert-butyl(diphenyl)silyl)oxy)cyclohexanecarboxylic acid in 270 ml of tert-butyl alcohol were successively added 63.3 g of di-tert-butyl dicarbonate and 5.31 g of 4-dimethylaminopyridine in room temperature, followed by stirring the reaction mixture at room temperature for 3 hours. The reaction mixture was concentrated in vacuo to remove tert-butylalcohol, and the resulting residue was purified by a silica gel column chromatography (eluent: hexane to hexane/ethyl acetate=19/1) to give the title compound as a pale yellow oil.

reactant | 4-((tert-butyl(diphenyl)silyl)oxy)cyclohexanecarboxylic acid | 62.8 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CCC(CC1)C(=O)O | C23H30O3Si
reactant | di-tert-butyl dicarbonate | 63.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tert-butyl alcohol | 270 ml | C(C)(C)(C)O | C4H10O
catalyst | 4-dimethylaminopyridine | 5.31 g | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-butyl 4-((tert-butyl(diphenyl)silyl)oxy)cyclohexanecarboxylate | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CCC(CC1)C(=O)OC(C)(C)C | C27H38O3Si
